US05739336
A mixture of 5-chloro-1-(5-chloro-2-methoxyphenyl)-1-pentanone (2 g, 7.66 mmol), prepared as in Example 7, ethylene glycol (1.25 g, 20 mmol), 2-napthalenesulfonic acid (50 mg, 0.24 mmol) and toluene (approximately 80 mL) was heated 4-5 hours at reflux (removing water with a Dean-Stark trap) and then additional ethylene glycol (1 g, 16 mmol) was added. The mixture was heated approximately 16 hours at reflux and then washed with saturated sodium bicarbonate, water (3×) and brine (1×), dried (K2 CO3), filtered and concentrated to give 5-chloro-1-(5-chloro-2-methoxyphenyl)-1,1-ethylenedioxypentane (2.23 g, 7.31 mmol) as an oil.

reactant | 5-chloro-1-(5-chloro-2-methoxyphenyl)-1-pentanone | 7.66 mmol, 2 g | ClCCCCC(=O)C1=C(C=CC(=C1)Cl)OC | C12H14Cl2O2
reactant | ethylene glycol | 20 mmol, 1.25 g | C(CO)O | C2H6O2
reactant | toluene | approximately 80 mL | C1(=CC=CC=C1)C | C7H8
reactant | ethylene glycol | 16 mmol, 1 g | C(CO)O | C2H6O2
catalyst | 2-napthalenesulfonic acid | 0.24 mmol, 50 mg | C1=C(C=CC2=CC=CC=C12)S(=O)(=O)O | C10H8O3S
solvent | water | O | H2O
product | 5-chloro-1-(5-chloro-2-methoxyphenyl)-1,1-ethylenedioxypentane | 7.31 mmol, 2.23 g | ClCCCCC1(OCCO1)C1=C(C=CC(=C1)Cl)OC | C14H18Cl2O3
